US06130238
Crude dimethyl 4-bromo-2-nitrophenylmalonate was heated at 110° C. in 40 mL of 6N hydrochloric acid for 24 hours and then cooled. The precipitate was collected by filtration, washed with water and dried to give 5.3 g (89% yield) of 4-bromo-2-nitrophenylacetic acid as an off white solid.

reactant | dimethyl 4-bromo-2-nitrophenylmalonate | BrC1=CC(=C(C=C1)C(C(=O)OC)C(=O)OC)[N+](=O)[O-] | C11H10BrNO6
solvent | hydrochloric acid | 6N, 40 mL | Cl | ClH
product | 4-bromo-2-nitrophenylacetic acid | 5.3 g, 89% yield | BrC1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C8H6BrNO4
